Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Prilosec / Demerol / Morphine
 
Attending: ___.
 
Chief Complaint:
Dizziness, shortness of breath
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo female with h/o anemia, small CVA, HL, and GERD who 
presents with sx of tachycardia, dizziness, SOB, and left arm 
heaviness. First sx started on ___ when got up and tried to 
walk and she felt her heart racing. She thought she was nervous 
b/c son was traveling home and sx improved after she sat down 
and meditated. At baseline she can walk up and downstairs 
without SOB.  
.  
Then yesterday she was walking around and noticed her heart 
racing with no other sx. Again she sat down, meditated, and felt 
better. Later in the evening she felt dizzy when walking around, 
she walked into the bathroom and felt she might faint but felt 
slightly better after sitting on the toilet. She is not sure if 
she had any cardiac sx at the time. This AM she felt dizzy, a 
little SOB, and a heaviness in her left arm. She took 4 baby 
aspirin and then came in to the ED.  
.  
On arrival to the ED VS were 97.7 130/67 HR79 RR 18 100% RA. 
Patient had the above sx for hrs which subsided while she was in 
the ED. She was pain free in the ED prior to the resident going 
in to evaluate her. She was originally going to be admitted for 
observation but then troponin bumped from 0.01 to 0.03 with CK 
87 and 93. EKG no changes from previous. CXR was normal. 
Cardiology was informed and recommended admission for ___ and a 
stress. Vitals prior to transfer were HR 85 BP 125/68 18 99% RA. 
 
.  
On assessment the morning after admission, the patient admitted 
to being tired, but was kept up all night by her roommate.  She 
had mild lightheadedness that she attributed to the lack of 
sleep.  Denied fever, chills, chest pain, SOB, visual changes, 
HA or any other symptom.  Did not have any recurrence of 
symptoms overnight.
 
Past Medical History:
Anemia  
Small stroke  
Hypercholesterolemia  
Abdominal pain  
Osteoporosis  
Dyspepsia/GERD 
 
Social History:
___
Family History:
NC  
 
Physical Exam:
T 96.7 BP 130/64 HR 75 RR 18 O2sat 100% RA  
GENERAL: Pleasant in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. Pupils equal. MMM. OP clear. Neck Supple, No 
LAD.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___. no JVD.  
Chest: mild swelling of left breast, diffusely tender breast, no 
discrete lump but thickness under medial aspect of right breast  

LUNGS: CTAB, good air movement biaterally.  
ABDOMEN: +BS. Soft, NT, ND. No HSM  
EXTREMITIES: Mild chronic swelling on left lower calf which is 
tender, 2+ dorsalis pedis  
NEURO: Appropriate. CN ___ grossly intact. Moving all 
extremities.  
PSYCH: Listens and responds to questions appropriately, pleasant 
 
 
Pertinent Results:
___ 07:00AM BLOOD WBC-3.9* RBC-4.65 Hgb-12.6 Hct-36.6 
MCV-79* MCH-27.0 MCHC-34.4 RDW-12.5 Plt ___
___ 10:20AM BLOOD Neuts-52.2 ___ Monos-6.0 Eos-1.8 
Baso-0.7
___ 10:20AM BLOOD ___ PTT-22.2 ___
___ 07:00AM BLOOD Glucose-79 UreaN-8 Creat-0.6 Na-142 K-4.1 
Cl-103 HCO3-32 AnGap-11
___ 01:10AM BLOOD CK(CPK)-86
___ 04:45PM BLOOD CK(CPK)-93
___ 10:20AM BLOOD CK(CPK)-87
___ 01:10AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 04:45PM BLOOD cTropnT-0.03*
___ 10:20AM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD Calcium-9.6 Phos-3.5 Mg-2.2
___ 07:00AM BLOOD TSH-PND
 
Brief Hospital Course:
The pt is a ___ yo female presenting with one episode of heart 
racing yesterday and 2 episodes of dizziness one with 
accompanying SOB and a heavy left arm. Patient was admitted for 
2 sets and a stress.  
.  
#. ? ACS: Pt with dizziness, SOB, and heavy left arm concerning 
for ACS. Troponin did increased from 0.01 to 0.03 on second set. 
No EKG changes were noted. Cardiology was made aware in the ED 
and recommended only ASA at this point and stress test in AM. 
The patient was chest pain/symptom free over the night of her 
admission.  A third troponin was 0.01.  ETT in the morning was 
normal.     
.  
#. Rhythm: Pt in NSR. Although story of dizziness, tachycardia, 
and SOB could suggest rhythm abnormality  
-monitor on telemetry overnight  
-check TSH  
.  
#. Dizziness/presyncope: Etiology was unclear despite extensive 
workup.  UA was negative in the ED. Last carotid series in ___ 
was nl and echo was repeated in the morning which was 
unremarkable.  EKG was normal sinus and no events were recorded 
during her admission.  TSH was ordered and pending at the time 
of discharge to be follow up by PCP.  
.  
#. Breast swelling/tenderness: Last mammogram ___ and normal. 
No breast mass was appreciated on careful exam during admission. 
 A repeat mammogram may be indicated in the outpatient setting.
.  
#. Leukopenia: WBC 3.2 (has been in high 3s previously) c/w 
prior levels.  Unclear etiology.
.  
#. Anemia: HCT 35 at baseline, stable.
 
Medications on Admission:
Ferrous sulfate 325mg po daily  
PANTOPRAZOLE 40 mg daily  
ASPIRIN 81 mg daily  
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 500 WITH VITAMIN D] -  
(OTC) - 500 mg (1,250 mg)-200 unit Tablet - 1 Tablet(s) by mouth 
 
twice a day  
LORATADINE - 10 mg Tablet - 1 (One) Tablet(s) by mouth once a 
day not needing currently  
 
Discharge Medications:
1. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily). Tablet(s) 
6. Loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Dizziness and dyspnea
Secondary: Leukopenia, anemia, gastroesophageal reflux

 
Discharge Condition:
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent
Good. Vitals in the normal range. Symptom-free.

 
Discharge Instructions:
You were held on the hospital for evaluation of your episode of 
dizziness and left arm pain yesterday.  We did some lab tests 
which were normal and we evaluated your heart with an echo study 
and a stress test, both of which were not concerning for 
significant problems at this time.  We feel it is safe for you 
to go home.

Your medications have not changed, please continue your daily 
aspirin.

Please keep all of your outpatient appointments.

Please go to the ER or seek medical advice if you experience:
-Chest pain or chest pressure
-Shortness of breath
-lightheadedness or passing out
-palpitations
-fever or chills, nausea or vomiting
-Any other new or concerning symptoms
 
Followup Instructions:
___